US07776857B2
Step 1: 5-[(3,5-Difluoro-phenylamino)-methylene]-2,2-dimethyl-[1,3] dioxane-4,6-dione
In a oven dried 2-neck RBF equipped with reflux condenser and inert atmosphere, meldrum's acid (30 g, 0.208 mole) was dissolved in triethylorthoformate (185 g, 1.25 mole) and the reaction mixture was refluxed at 100° C. under nitrogen for 1 h. On complete consumption of starting material (tic), 3,5-difluoroaniline (26.8 g, 0.208 mol) was added and the heating continued for 4 h. After completion of the reaction (tic), reaction mixture was brought to RT and diluted with hexane (300 ml) when yellow solid precipitated. The solid was filtered, washed thoroughly with hexane and dried to furnish the product.

reactant | meldrum's acid | 0.208 mole, 30 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | triethylorthoformate | 1.25 mole, 185 g | C(C)OC(OCC)OCC | C7H16O3
reactant | 3,5-difluoroaniline | 0.208 mol, 26.8 g | FC=1C=C(N)C=C(C1)F | C6H5F2N
solvent | hexane | 300 ml | CCCCCC | C6H14
product | 5-[(3,5-Difluoro-phenylamino)-methylene]-2,2-dimethyl-[1,3] dioxane-4,6-dione | FC=1C=C(C=C(C1)F)NC=C1C(OC(OC1=O)(C)C)=O | C13H11F2NO4
